US07173043B2
29.96 g 3-(4-Fluoro-phenyl)-6-methoxy-benzo[b]thiophene in 230 ml acetic acid were treated with 130 ml (62% aq) HBr at 125° C. for 4 h. The solution was added slowly to a cooled solution of 210 g NaOH in 600 ml water, the pH was adjusted to 8–9, and the inorganic phase was extracted with EtOAc. The combined organic phases were washed with brine and dried with Na2SO4. Column chromatography on silica gel with hexane: EtOAc 4.1 yielded 20.0 g (73%) 3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-ol as light brown solid, MS: 244 (M).

reactant | 3-(4-Fluoro-phenyl)-6-methoxy-benzo[b]thiophene | 29.96 g | FC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)OC | C15H11FOS
reactant | HBr | 130 ml | Br | BrH
reactant | NaOH | 210 g | [OH-].[Na+]
solvent | acetic acid | 230 ml | C(C)(=O)O | C2H4O2
solvent | water | 600 ml | O | H2O
product | 3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-ol | 20.0 g, 73% | FC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)O | C14H9FOS
